US08975400B2
2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E71 using tert-butyl 7-((3-cyano-4-(3-fluoro-5-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimi-dine-1 (5H)-carboxylate (50 mg, 0.091 mmol) in DMF (2 mL) and silica gel.

reactant | tert-butyl 7-((3-cyano-4-(3-fluoro-5-(trifluoromethyl)phenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimi-dine-1 (5H)-carboxylate | 0.091 mmol, 50 mg | C(#N)C=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=CC(=C1)C(F)(F)F)F | C26H22F4N4O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-5-(trifluoromethyl)phenoxy)-5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)COC=2C=C3N(C(N2)=O)CCN3)C=C(C1)C(F)(F)F | C21H14F4N4O3
